* C:\Users\aalon\OneDrive\Documents\_Repositorio\Circuitos_electronicos\Circuitos\Filtro RC paso bajo [LTSpice]\Filtro RC paso bajo.asc
R1 Vout Vin 10K
C1 Vout 0 1nF
V1 Vin 0 SINE(0 1) AC 1
.ac dec 100 1 20K
.backanno
.end
